*
* This information is protected under the United States copyright
* laws. THAT Corporation ("THAT") hereby grants users of this
* macromodel (the "User"), a nonexclusive, nontransferable
* license to use this macromodel as long as the licensee abides
* by the terms of this agreement.  Before using the macromodel,
* the User should read this license.  If the User does not accept
* these terms, the macromodel contained herein should be erased,
* destroyed or returned to THAT within 30 days.
*
* The User may copy and distribute, at no charge, verbatim copies
* of the Macromodel as contained herein, in any medium, provided
* that the User conspicuously publishes on each copy this copyright
* notice and disclaimer of warranty.  The User may modify this
* macromodel to suit his or her specific applications, and the User
* may make copies of the modified macromodel for use within his or
* her company only, and provided the modified files carry prominent
* notices stating that the files have been changed, and the date of
* any changes.
*
* This macromodel is provided "AS IS, WHERE IS, AND WITH NO WARRANTY
* OF ANY KIND EITHER EXPRESSED OR IMPLIED, INCLUDING BUT NOT LIMITED
* TO ANY IMPLIED WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A
* PARTICULAR PURPOSE."  In no event will THAT be liable for special,
* collateral, incidental, or consequential damages in connection
* with or arising out of the use of this macromodel.  THAT reserves
* the right to make changes to the products and macromodel without
* prior notice.
*
*THAT4305 MACROMODEL
*REV 02 6-1-2017
*All in one subcircuit. replaces VCC and VEE by V+ and V-, respectively:
.SUBCKT THAT4305 NC1 RMS_IN NC2 CT RMS_OUT GND NC3 V- V+ NC4 EC+ EC- VCA_OUT NC5 VCA_IN NC6
X_X1      RMS_IN CT RMS_OUT GND V- V+ 4305RMS
X_X2      VCA_IN VCA_OUT EC- EC+ V+ V- GND 4305VCA
.ENDS
*
*
*THAT4305 RMS MACROMODEL
*REV 00 6-24-2014
*CONNECTIONS:
*	        input current
*		|      timing capacitor
*		|      |  output voltage
*		|      |  |       ground
*		|      |  |       |   negative power supply
*		|      |  |       |   |  positive power supply
*		|      |  |       |   |  |
.SUBCKT 4305RMS RMS_IN CT RMS_OUT GND V- V+
*
Q_Q6         2 1 RMS_IN QPNPRMS
Q_Q10        3 3 4 QPNPRMS
F_F5         CT V- VF_F5 1
VF_F5        5 V- 0V
F_F3         6 V- VF_F3 1
VF_F3        2 V- 0V
F_F4         V+ 7 VF_F4 1
VF_F4        V+ 6 0V
I_I1         8 V- DC 3.2uA
F_F2         V+ 2 VF_F2 1
VF_F2        V+ 9 0V
Q_Q9         V+ 0 4 QNPNRMS
Q_Q3         9 10 RMS_IN QNPNRMS
E_E1         V+ 10 V+ 11 1
G_G1         11 0 12 13 6.154e-6
R_R1         0 11  22Meg
I_I2         14 5 DC 7.5uA
Q_Q1         13 RMS_IN 8 QNPNRMS 1
R_R4         12 V+  162.5k
R_R3         13 V+  162.5k
C_C1         0 11  4pF
E_E2         10 1 0 3 1
E_E3         15 16 V+ 14 1
E_E5         RMS_OUT 15 CT 15 1
Q_Q2         12 GND 8 QNPNRMS 1
E_E6         15 0 GND 0 1
Q_Q4         7 17 18 QNPNRMS 4
Q_Q7         19 16 18 QPNPRMS 4
Q_Q5         14 14 V+ QPNPRMS 4
R_R6         17 7  700
R_R7         19 16  700
E_E4         20 15 7 15 1
Q_Q8         V+ 20 CT QNPNRMS 4
I_I4         3 V- DC 40nA
I_I5	     V+ V- 370uA
.MODEL QNPNRMS NPN IS=1e-15 BF=200 VAF=800 CJC=.19pF RB=220
.MODEL QPNPRMS PNP IS=1e-15 BF=75 VAF=80 CJC=.53pF RB=205
.ENDS
*
*
*THAT4305 VCA MACROMODEL
*REV 00 6-24-2014
*CONNECTIONS:
*	        input current
*		|      output current
*		|      |       negative control voltage
*		|      |       |   positive control voltage
*		|      |       |   |   positive power supply
*		|      |       |   |   |  negative power supply
*		|      |       |   |   |  |  ground
*		|      |       |   |   |  |  |
.SUBCKT 4305VCA VCA_IN VCA_OUT EC- EC+ V+ V- GND
*
R_R11        22 20  30
R_R9         EC+ 34  30
Q_Q35        20 22 24 QNPNVCA
Q_Q42        30 30 31 QNPNVCA
V_V6         1 2 DC 1.4V
D_D5         1 V+ DNOM
Q_Q43        0 0 31 QPNPVCA
Q_Q33        12 9 10 QNHIB
V_V7         2 3 DC .7V
I_I1         10 V- DC 7.0uA
G_G7         28 V- 40 V- 100e-6
E_E1         20 28 30 0 2
Q_Q39        28 28 27 QPNPVCA
Q_Q36        VCA_OUT 34 27 QNPNVCA
R_R36        V- 28  100Meg
Q_Q38        28 28 26 QPNPVCA
I_I9         20 28 DC 130uA
Q_Q41        VCA_OUT EC- 24 QPNPVCA
V_V5         GND 40 DC 1.8V
R_R10        EC- 25  30
V_Vos        9 GND DC 3mV
D_D6         GND 3 DNOM
C_C3         20 0  4.7pF
R_R12        21 20  30
G_G5         V+ 2 11 12 33.65e-6
R_R35        12 V+  15k
R_R34        11 V+  15k
R_R29        GND 2  25Meg
G_G6         V+ 20 2 GND 2.3e-3
C_C4         GND 2 16pF
Q_Q37        20 21 23 QNPNVCA
I_I8         28 V- DC 950uA
I_I10        V+ 6 DC 100uA
D_D7         6 V- DNOM
I_I11        V+ 7 DC 100uA
D_D8         7 V- DNOM
Q_Q40        VCA_IN EC+ 23 QPNPVCA
Q_Q34        VCA_IN 25 26 QNPNVCA
Q_Q32        11 VCA_IN 10 QNHIB
G_G8         VCA_IN V- 6 7 40e-5
I_I2         0 30 DC 22uA
I_Isym       0 34 DC 4.4uA
V_V9	     V+ 4 2.8V
R_R40	     4 V- 40k
.model DNOM D Is=1e-14 Cjo=.1pF Rs=.1
.model QNHIB NPN BF=2000
.model QNPNVCA NPN IS=5e-16 BF=150 VAF=150 RB=45 CJC=1.0pF
.model QPNPVCA PNP IS=5e-16 BF=75 VAF=100 RB=100 CJC=1.1pF
.ENDS
*
